US04708955
Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate (Ib, R2 =CH3, R3 =CH3, R4 =PV*)
Pivaloyloxymethyl iodide (162 mg, 0.67 mmole) was added at 0° C. to a mixture of 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylic acid (197 mg, 0.45 mmole) and K2CO3 (93 mg, 0.67 mmole) in DMF (4 ml). The mixture was stirred at 0°-5° C. for 1 hour and diluted with ethyl acetate (30 ml). The dilute was washed with water and a saturated NaCl solution, dried over anhydrous MgSO4 and evaporated in vacuo. The residue was chromatographed on a silica gel column (5 g) with 1% methanol in CHCl3. The desired fractions were combined and concentrated in vacuo. The residue was dissolved in dioxane and lyophilized to afford 242 mg (97%) of the dioxane solvate of the title compound. Silica gel TLC: Rf 0.25 (1:1 CHCl3 -ethyl acetate). Estimated purity 85% (by HPLC). Mp. 90°-95° C.

reactant | Pivaloyloxymethyl iodide | 0.67 mmole, 162 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylic acid | 0.45 mmole, 197 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)O)C1=O)=N/OC | C17H19N5O5S2
reactant | K2CO3 | 0.67 mmole, 93 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C23H29N5O7S2
